US03948943
N-Acetyl-glycine n-docosylamide
A mixture consisting of 1.13 gm (0.01 mol) of ethyl N-acetyl-glycinate and 2.50 gm (0.0078 mol) of n-docosyl-amine was heated for 90 minutes at 150°C., while stirring. Thereafter, ethyl acetate was added to the hot reaction mixture, and upon cooling of the mixture a crystalline substance separated out which was collected and again recrystallized from ethyl acetate in the presence of activated charcoal and silicagel. 1.5 gm (55% of theory) of the compound of the formula ##EQU6## having a melting point of 135°-137°C. were obtained.

reactant | ethyl N-acetyl-glycinate | 0.01 mol, 1.13 gm | C(C)(=O)NCC(=O)OCC | C6H11NO3
reactant | n-docosyl-amine | 0.0078 mol, 2.50 gm | C(CCCCCCCCCCCCCCCCCCCCC)N | C22H47N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Acetyl-glycine n-docosylamide | C(CCCCCCCCCCCCCCCCCCCCC)NC(CNC(C)=O)=O | C26H52N2O2
